* NGSPICE file created from rev_cnot.ext - technology: sky130A

.subckt rev_cnot VDD VGND A B A_OUT B_OUT
X0 VDD B a_652_110# VDD sky130_fd_pr__pfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X1 VGND A a_346_110# VGND sky130_fd_pr__nfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
V0 A A_OUT 0
X2 VGND B a_652_110# VGND sky130_fd_pr__nfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X3 B A B_OUT VDD sky130_fd_pr__pfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X4 a_652_110# a_346_110# B_OUT VDD sky130_fd_pr__pfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X5 B a_346_110# B_OUT VGND sky130_fd_pr__nfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X6 a_652_110# A B_OUT VGND sky130_fd_pr__nfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X7 VDD A a_346_110# VDD sky130_fd_pr__pfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
C0 VDD B_OUT 0.12084f
C1 a_652_110# a_346_110# 0.43276f
C2 VDD B 0.26492f
C3 VDD A 0.39645f
C4 B_OUT a_346_110# 0.34975f
C5 B a_346_110# 0.28007f
C6 A a_346_110# 0.73878f
C7 VDD a_346_110# 0.59774f
C8 a_652_110# B_OUT 0.39022f
C9 a_652_110# B 0.15172f
C10 a_652_110# A 0.37883f
C11 B B_OUT 0.68537f
C12 A B_OUT 0.38645f
C13 A B 0.6738f
C14 VDD a_652_110# 0.21886f
C15 B_OUT VGND 1.16854f
C16 VDD VGND 3.35107f
C17 a_652_110# VGND 2.20769f
.ends

