* NGSPICE file created from rev_cnot.ext - technology: sky130A

.subckt rev_cnot VDD VGND A B A_OUT B_OUT
X0 VDD B a_652_110# VDD sky130_fd_pr__pfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X1 VGND A a_346_110# VGND sky130_fd_pr__nfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
V0 A A_OUT 0
X2 VGND B a_652_110# VGND sky130_fd_pr__nfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X3 B A B_OUT VDD sky130_fd_pr__pfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X4 a_652_110# a_346_110# B_OUT VDD sky130_fd_pr__pfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X5 B a_346_110# B_OUT VGND sky130_fd_pr__nfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X6 a_652_110# A B_OUT VGND sky130_fd_pr__nfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X7 VDD A a_346_110# VDD sky130_fd_pr__pfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
C0 VDD a_652_110# 0.38342f
C1 VDD B_OUT 0.14298f
C2 a_652_110# a_346_110# 0.45466f
C3 VDD B 0.54749f
C4 VDD A 0.68149f
C5 B_OUT a_346_110# 0.31964f
C6 B a_346_110# 0.29104f
C7 A a_346_110# 0.58502f
C8 VDD a_346_110# 0.70144f
C9 a_652_110# B_OUT 0.37831f
C10 a_652_110# B 0.17215f
C11 a_652_110# A 0.34919f
C12 B B_OUT 0.68537f
C13 A B_OUT 0.3932f
C14 A B 0.69102f
C15 B_OUT VGND 1.15213f
C16 VDD VGND 3.08698f
C17 a_652_110# VGND 1.84472f
.ends

